US06734191B2
A solution of (2-hydroxyphenyl)-terephthalamic acid methyl ester (0.35 g, 1.3 mmol) in polyphosphoric acid (5 mL) was heated to reflux for 3 h. The solution was cooled to 0° C., water added (100 mL) and solid K2CO3 introduced until pH 7-9 was attained. The residue was diluted with ethyl acetate (2×100 mL) and the organic extract dried (MgSO4), filtered and concentrated to give cyclized methyl 4-(benzoxazol-2-yl)-benzoate (0.15 g, 45%) as a beige powder. 1H NMR (CDCl3) δ3.98 (s, 3H), 7.40 (m, 2H), 7.61 (m, 1H), 7.81 (m, 1H), 8.20 (d, 2H, J=7.8 Hz), 8.34 (d, 2H, J=7.8 Hz).

reactant | (2-hydroxyphenyl)-terephthalamic acid methyl ester | 1.3 mmol, 0.35 g | COC(C1=C(C=C(C(=O)N)C=C1)C1=C(C=CC=C1)O)=O | C15H13NO4
reactant | water | O | H2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-(benzoxazol-2-yl)-benzoate | 0.15 g, 45% | O1C(=NC2=C1C=CC=C2)C2=CC=C(C(=O)OC)C=C2 | C15H11NO3
